### PR TITLE
Add Lehmer's Mahler measure problem

### PR DESCRIPTION
**Pull request by ninohiro**
#93

### CODE REVIEW

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Lehmer's Mahler measure problem
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Lehmer%27s_conjecture)
+-/
+
+open Multiset
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: Since you're using `Polynomial` a fair bit, I'd suggest adding it to the opens so you can use the notations

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 2]
```diff
@@ -0,0 +1,52 @@
...
+
+noncomputable section
+
+def max1Abs (z : ℂ) : ℝ := max 1 ‖z‖
+
+/--
+The Mahler measure of f(x) is defined as ‖a‖∏max(1,‖α_i‖),
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: Would you mind changing the maths parts in the docstring to Latex or add backticks around those?

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 3]
```diff
@@ -0,0 +1,52 @@
...
+  mahlerMeasure (toC f)
+
+/--
+Let M(f) denote the Mahler measure of f.
+There exists a constant μ>1 such that for any f(x)∈ℤ[x], M(f)>1 → M(f)>μ.
+-/
+@[category research open, AMS 11]
+theorem lehmer_mahler_measure_problem :
+  ∃ μ : ℝ, ∀ f : Polynomial ℤ,
+  μ > 1 ∧ (mahlerMeasureZ f > 1 → mahlerMeasureZ f > μ) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: Small style nitpick: these lines should be indented by 4 spaces.

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 4]
```diff
@@ -0,0 +1,52 @@
...
+# Lehmer's Mahler measure problem
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Lehmer%27s_conjecture)
+-/
+
+open Multiset
+
+noncomputable section
+
+def max1Abs (z : ℂ) : ℝ := max 1 ‖z‖
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: Since this is only being used once, I'd suggest inlining it in the definition of `mahlerMeasure`.

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean (hunk 2 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: I like docstrings readable in VSCode, and would do something like
```
The Mahler measure of f(x) is defined as ‖a‖ ∏ᵢ max(1,‖αᵢ‖),
where f(x)=a(x-α₁)(x-α₂)...(x-αₙ).
```
See discussions at https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/LaTeX.20in.20docstrings/near/419010384

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean (hunk 4 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: Something like `map (max 1 ‖·‖) f.roots`

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: That sounds reasonable to me! I'd just add backticks around the maths to get highlighting in VS Code.

Comment (eric-wieser) [reply FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: My general rule is that either it should be valid lean code in `` ` ``s, or valid latex in ``$``. That way the rendered docs don't ever mislead the reader about what is valid lean syntax.

**Comment by ninohiro** [comment]
Thanks for the advice! I have added some variants.

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 5]
```diff
@@ -0,0 +1,88 @@
...
+/--
+`μ=M(X^10 + X^9 - X^7 - X^6 - X^5 - X^4 - X^3 + X + 1)` is the best value for `lehmer_mahler_measure_problem`.
+-/
+@[category research open, AMS 11]
+theorem lehmer_mahler_measure_problem.variants.best :
+    ∀ f : ℤ[X],
+    mahlerMeasureZ f > 1 → mahlerMeasureZ f ≥ mahlerMeasureZ lehmerPolynomial := by
+  sorry
+
+def IsReciprocal (f : ℤ[X]) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: Since these properties are quite short to state and only used once, I'd suggest inlining them in the corresponding theorem statements.

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 6]
```diff
@@ -0,0 +1,88 @@
...
+
+def lehmerPolynomial : ℤ[X] := X^10 + X^9 - X^7 - X^6 - X^5 - X^4 - X^3 + X + 1
+
+/--
+`μ=M(X^10 + X^9 - X^7 - X^6 - X^5 - X^4 - X^3 + X + 1)` is the best value for `lehmer_mahler_measure_problem`.
+-/
+@[category research open, AMS 11]
+theorem lehmer_mahler_measure_problem.variants.best :
+    ∀ f : ℤ[X],
+    mahlerMeasureZ f > 1 → mahlerMeasureZ f ≥ mahlerMeasureZ lehmerPolynomial := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]: It's usually nicer to follow [Mathlib's style guidelines](https://leanprover-community.github.io/contribute/style.html#hypotheses-left-of-colon): 
```suggestion
theorem lehmer_mahler_measure_problem.variants.best (f : ℤ[X])
    (hf : mahlerMeasureZ f > 1) : mahlerMeasureZ f ≥ mahlerMeasureZ lehmerPolynomial := by
```
(and same for the statements below)

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 7]
```diff
@@ -0,0 +1,88 @@
...
+  sorry
+
+def IsReciprocal (f : ℤ[X]) : Prop :=
+  f.reverse = f
+
+/--
+If `f` is not reciprocal, `M(f) ≥ M(X^3 - X - 1)`.
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]:
```suggestion
If `f` is not reciprocal and `M(f)>1` then `M(f) ≥ M(X^3 - X - 1)`.
```

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 8]
```diff
@@ -0,0 +1,88 @@
...
+    ∀ f : ℤ[X],
+    ¬ IsReciprocal f ∧ mahlerMeasureZ f > 1 →
+    mahlerMeasureZ f ≥ mahlerMeasureZ (X^3 - X - 1) := by
+  sorry
+
+def AllCoeffsOdd (f : Polynomial ℤ) : Prop :=
+  ∀ i : ℕ, Odd (f.coeff i)
+
+/--
+If all the coefficients of `f` are odd, `M(f) ≥ M(X^2 - X - 1)`.
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]:
```suggestion
If all the coefficients of `f` are odd and `M(f)>1`, `M(f) ≥ M(X^2 - X - 1)`.
```

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 9]
```diff
@@ -0,0 +1,88 @@
...
+where `f(X)=a(X-α₁)(X-α₂)...(X-αₙ)`.
+-/
+def mahlerMeasure (f : ℂ[X]) : ℝ :=
+  ‖f.leadingCoeff‖ * (map (max 1 ‖·‖) f.roots).prod
+
+def toC (f : ℤ[X]) : ℂ[X] :=
+  f.map (algebraMap ℤ ℂ)
+
+def mahlerMeasureZ (f : ℤ[X]) : ℝ :=
+  mahlerMeasure (toC f)
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]:
```suggestion
/-- The Mahler measure of a polynomial over the integers, viewed as a complex polynomial. -/
def mahlerMeasureZ (f : ℤ[X]) : ℝ :=
  mahlerMeasure (f.map (algebraMap ℤ ℂ)
```

File: FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean [hunk 10]
```diff
@@ -0,0 +1,88 @@
...
+
+/--
+Let `M(f)` denote the Mahler measure of `f`.
+There exists a constant `μ>1` such that for any `f(x)∈ℤ[x], M(f)>1 → M(f)≥μ`.
+-/
+@[category research open, AMS 11]
+theorem lehmer_mahler_measure_problem :
+    ∃ μ : ℝ, ∀ f : ℤ[X],
+    μ > 1 ∧ (mahlerMeasureZ f > 1 → mahlerMeasureZ f ≥ μ) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LehmerMahlerMeasureProblem.lean]:
```suggestion
      μ > 1 ∧ (mahlerMeasureZ f > 1 → mahlerMeasureZ f ≥ μ) := by
```

**Review by Paul-Lez — COMMENTED** [review]
A few nitpick here and there but this is looking great - thanks for the extra statements!
